US05643925
4-Acetoxy-3-nitrocinnamic acid
10 g of 4-hydroxy-3-nitrocinnamic acid (prepared as described in Preparation 1) were dissolved in 30 ml of acetic anhydride. One drop of sulfuric acid was added to the solution, which was then stirred for 2 hours at room temperature. 50 ml of water were added the solution, and it was then stirred for a further 2 hours. At the end of this time, ethyl acetate was added, and the mixture was washed with water and with a saturated aqueous solution of sodium chloride, in that order, and then dried over anhydrous sodium sulfate. The solvent was removed by distillation under reduced pressure, and the residue was mixed with toluene; the remaining acetic acid was removed by azeotropic distillation to obtain 10.2 g of the title compound as crystals.

reactant | 4-hydroxy-3-nitrocinnamic acid | 10 g | OC1=C(C=C(C=CC(=O)O)C=C1)[N+](=O)[O-] | C9H7NO5
reactant | water | 50 ml | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic anhydride | 30 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | sulfuric acid | One drop | S(O)(O)(=O)=O | H2O4S
product | 4-Acetoxy-3-nitrocinnamic acid | 10.2 g | C(C)(=O)OC1=C(C=C(C=CC(=O)O)C=C1)[N+](=O)[O-] | C11H9NO6
